US08293768B2
Synthesis of 3-methyl-5-(1-(4-(methylsulfonyl)benzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylic acid
Following the procedure as described in Example 30, making variations as required to replace ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate with ethyl 3-methyl-5-(1-(4-(methylsulfonyl)benzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate, the title compound was obtained as a beige solid in 74% yield: 1H NMR (300 MHz, DMSO-d6) δ 13.02 (br s, 1H), 8.79 (s, 1H), 7.92 (d, J=7.1 Hz, 2H), 7.56 (d, J=7.1 Hz, 2H), 7.29 (s, 1H), 5.11 (s, 2H), 3.20 (s, 3H), 2.47 (s, 3H); MS (ES−) m/z 392.2 (M−1).

reactant | ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)OCC)C)C=C1 | C17H16FN3O3S
reactant | ethyl 3-methyl-5-(1-(4-(methylsulfonyl)benzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C=NN(C1=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)OCC | C18H19N3O5S2
product | 3-methyl-5-(1-(4-(methylsulfonyl)benzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylic acid | 74% yield | CC1=C(SC(=C1)N1C=NN(C1=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C16H15N3O5S2
